US05614548
(±)-1-hexadecylthio-2-methoxy-3-bromopropane
Into a flask equipped with a magnetic stir bar, drying tube, and a reflux condenser, a solution of 3.0 grams (0.007 mole) (±)-1-S-hexadecyl-2-O-methyl-3-O-mesylthioglycerol and 2.5 grams (0.029 mole) of lithium bromide in 150 milliliters of acetone was refluxed for 24 hours with continuous stirring. The reaction was cooled to room temperature, the sodium mesylate filtered and the solvent evaporated in vacuo. The residue was dissolved in 300 milliliters of ether and extracted three times with 500 milliliter portions of sodium thiosulfate, twice with 500 milliliter portions of water, and the organic layer dried over anhydrous sodium sulfate. Filtration of the drying agent, evaporation of the ether in vacuo and subsequent silica gel chromatography (hexane:ether 9:1 as eluent) afforded 2.5 grams (87%) of an oily product. 1H-NMR (CDCl3): delta, 0.87 (t, 3H, terminal methyl), 1.2-1.6 [m, 28H, (CH2)14 ], 2.58 (m, 2H, S--CH2), 2.62 (m, 2H, CH--CH2 --S), 3.38(S, 3H, O--CH3), 3.48 (m, 3H, CH--CH2Br).

reactant | (±)-1-S-hexadecyl-2-O-methyl-3-O-mesylthioglycerol | 0.007 mole, 3.0 grams | C(CCCCCCCCCCCCCCC)SCC(OC)COS(=O)(=O)C | C21H44O4S2
reactant | lithium bromide | 0.029 mole, 2.5 grams | [Br-].[Li+]
solvent | acetone | 150 milliliters | CC(=O)C | C3H6O
product | (±)-1-hexadecylthio-2-methoxy-3-bromopropane | 2.5 grams, 87% | C(CCCCCCCCCCCCCCC)SCC(CBr)OC | C20H41BrOS
